US04587341
2,4-Diamino-5-(1,2,3,4-tetrahydro-8-methoxy-6-quinolylmethyl)pyrimidine
8-Methoxy-1,2,3,4-tetrahydroquinoline (J. L. Neumeyer and J. G. Cannon, J. Pharm. Sci., 51, 804 (1962)) (2.88 g) was treated by the method of Example 1 with 2,4-diamino-5-hydroxymethylpyrimidine. The product crystallized from the reaction mixture as an off-white solid, which was washed with water and treated with ammonia, followed by recrystallization from absolute ethanol (5.0 g). A slight impurity was removed on a silica gel column, which was eluted with 19:1 methylene chloride:methanol, taken to dryness, and recrystallized once more from absolute ethanol; m.p., 201°-203° C. Anal. Calcd. for C15H19N5O: C, 63.14; H, 6.71; N, 24.54. Found: C, 63.23; H, 6.75; N, 24.47.

reactant | 8-Methoxy-1,2,3,4-tetrahydroquinoline | 2.88 g | COC=1C=CC=C2CCCNC12 | C10H13NO
reactant | 2,4-diamino-5-hydroxymethylpyrimidine | NC1=NC=C(C(=N1)N)CO | C5H8N4O
product | 2,4-Diamino-5-(1,2,3,4-tetrahydro-8-methoxy-6-quinolylmethyl)pyrimidine | NC1=NC=C(C(=N1)N)CC=1C=C2CCCNC2=C(C1)OC | C15H19N5O
